US05624711
(a) Preparation of 3-(Triethoxysilyl)propylacrylamide
To a solution of acryloyl chloride (8.5 mL, 105 mmol) in dry dichloromethane (250 mL) cooled to 0° C. was added dropwise a mixture of 3-aminopropyltriethoxysilane (23.5 mL, 100 mmol) and triethylamine (13.9 mL, 100 mmol) in dichloromethane (50 mL). After completion of addition the reaction mixture was stirred for 30 min, then filtered. The filtrate was concentrated to an oil, diluted with hexane (100 mL) and filtered. The resulting filtrate was concentrated to oil and distilled in vacuo. The product was obtained as a viscous liquid (21.2 g, 77%), b.p. 142-145/1 mm Hg.

reactant | acryloyl chloride | 105 mmol, 8.5 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | 3-aminopropyltriethoxysilane | 100 mmol, 23.5 mL | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | triethylamine | 100 mmol, 13.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(Triethoxysilyl)propylacrylamide | 21.2 g, 77% | C(C)O[Si](CCCC(C(=O)N)=C)(OCC)OCC | C12H25NO4Si
